US03959322
Dissolve 1-diethylamino-6-(m-methoxyphenyl)hept-2-yne (13.6 g) in 10% aqueous sulphuric acid (40 cc) and stir with mercuric sulphate (0.69 g) for 2 hours at 70°. Filter the cooled solution, make basic with 10% aqueous sodium hydroxide and extract with ether. Wash the ethereal solution with water and brine, and dry (Na2SO4). Evaporate the solvent and distil the residue to obtain 1-diethylamino-6-(m-methoxyphenyl)heptan-3-one which has partially eliminated to 6-(m-methoxyphenyl)hept-1-en-3-one during the distillation, b.p. 145°/12 mm Hg.

reactant | 1-diethylamino-6-(m-methoxyphenyl)hept-2-yne | 13.6 g | C(C)N(CC#CCCC(C)C1=CC(=CC=C1)OC)CC | C18H27NO
reactant | sulphuric acid | 40 cc | S(O)(O)(=O)=O | H2O4S
product | 1-diethylamino-6-(m-methoxyphenyl)heptan-3-one | C(C)N(CCC(CCC(C)C1=CC(=CC=C1)OC)=O)CC | C18H29NO2
